data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1025,1118,[CH3:16][O:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][O-:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[O:24][NH:23][C:20]2([C:18]([O:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,27.23221195744715,2.39353164096831
3197,3610,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][N-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:12]([C:13](=[O:14])[O:15][CH3:16])[N:11]=[CH:10]1,water,298.15,22.56145880328221,-37.19987079147664
54,65,[CH3:1][O:2]/[C:3]([F:4])=[C:5](\[F:6])[O:7][CH3:8].[CH:9]#[N+:10][N-:11][C:12](=[O:13])[O:14][CH3:15]>>[CH3:1][O:2][C@@:3]1([F:4])[C@:5]([F:6])([O:7][CH3:8])[N:11]([C:12](=[O:13])[O:14][CH3:15])[N:10]=[CH:9]1,water,298.15,17.53554198212799,-48.5392957685866
2043,2268,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]([CH3:17])=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]([CH3:17])[C:18]3([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,30.32351440385317,-38.66767627835456
3945,4511,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[O:15][C:16]2([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,9.195756272967325,-34.308265536915776
4470,5102,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,19.023119104292554,-10.206388695262786
4816,5498,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[NH+:21]=[C:22]([C:23]#[N:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([CH3:20])[NH:21][C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,27.78214789642752,3.2528719852590364
785,850,[CH3:14][O:15][C:16](=[O:17])[CH-:18][O+:19]=[C:20]([CH3:21])[C:22]#[N:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([CH3:7])=[O:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:18]([C:16]([O:15][CH3:14])=[O:17])[O:19][C:20]2([CH3:21])[C:22]#[N:23],water,298.15,10.28752319757469,-53.80831693384248
3644,4163,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[N:11]=[NH+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:12][N:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,35.26095243226297,0.5441043297460804
4166,4769,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:16]#[N:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:14][CH:13]2[C:12]#[N:11],water,298.15,9.798701722814169,-32.53819671719599
3615,4127,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([O+:11]=[C:12]([CH3:13])[CH3:14])[C:15](=[O:16])[O:17][CH3:18].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:15](=[O:16])[O:17][CH3:18])[O:11][C:12]1([CH3:13])[CH3:14],water,298.15,33.985368544611084,10.699925212364723
1475,1629,[CH3:17][NH:18][C:19](=[O:20])[N-:21][N+:22]([CH3:23])=[N:24][C:25]([CH3:26])=[O:27].[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:21]([C:19]([NH:18][CH3:17])=[O:20])[N:22]([CH3:23])[N:24]1[C:25]([CH3:26])=[O:27],water,298.15,36.805590874660375,-5.106874519333762
921,997,[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2.[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:11]=[N:12][C:13]3([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,10.078885895608568,-59.82231644305026
